US04410536
1-Methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 2, from 5 g of 5-hydrazino-3-methylbenzothiophene hydrochloride and 5 g of 4-piperidone hydrochloride monohydrate. Melting point: 234° C.

reactant | 5-hydrazino-3-methylbenzothiophene hydrochloride | 5 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C)C1
reactant | 4-piperidone hydrochloride monohydrate | 5 g | O.Cl.N1CCC(CC1)=O
product | 1-Methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CC1=CSC=2C1=C1C3=C(NC1=CC2)CCNC3 | C14H14N2S
